US08497288B2
d) (6R,7aS)-6-(tert-Butyl-diphenyl-silanyloxy)-2-(4-trifluoromethoxy-phenyl)-hexahydro-pyrrolo[1,2-c]imidazol-3-one
t-BuOK (1.0 g, 8.9 mmol) was added to a solution of (2S,4R)-4-(tert-Butyl-diphenyl-silanyloxy)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid (4-trifluoromethoxy-phenyl)-amide (2.0 g, 3.6 mmol) in anhydrous THF (50 mL) at 0° C. The mixture was stirred for 15 minutes at 0° C. Then tosyl-chloride (0.88 g, 4.6 mmol) was added to the mixture, and the mixture was stirred for 30 minutes at 0° C. The mixture was poured into water (50 mL), extracted with ethyl acetate (3×50 mL). The organic layers was combined, washed with brine (50 mL), dried over anhydrous sodium sulphate, filtered and concentrated. The residue was purified by silica-gel column chromatography (petroleum ether/ethyl acetate=10:1) to give 1.6 g (83%) of the title compound. 1H NMR (300 MHz, CDCl3): δ 7.68-7.63 (m, 4H), 7.58 (d, 2H, J=9.3 Hz), 7.50-7.39 (m, 6H), 7.19 (d, 2H, J=9.0 Hz), 4.56 (t, 1H, J=5.1 Hz), 4.30-4.22 (m, 1H), 4.04 (t, 1H, J=8.4 Hz), 3.86 (dd, 1H, J1=12.6 Hz, J2=5.7), 3.67 (dd, 1H, J1=9.3 Hz, J2=2.4 Hz), 3.18 (d, 1H, J=12.6 Hz), 2.07 (dd, 1H, J1=12.6, J2=5.4), 1.46-1.37 (m, 1H), 1.11 (s, 9H).

reactant | t-BuOK | 8.9 mmol, 1.0 g | CC(C)(C)[O-].[K+]
reactant | (2S,4R)-4-(tert-Butyl-diphenyl-silanyloxy)-2-hydroxymethyl-pyrrolidine-1-carboxylic acid (4-trifluoromethoxy-phenyl)-amide | 3.6 mmol, 2.0 g | FC(OC1=CC=C(C=C1)NC(=O)N1[C@@H](C[C@H](C1)O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CO)(F)F | C29H33F3N2O4Si
reactant | tosyl-chloride | 4.6 mmol, 0.88 g | S(=O)(=O)(C1=CC=C(C)C=C1)Cl | C7H7ClO2S
reactant | water | 50 mL | O | H2O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (6R,7aS)-6-(tert-Butyl-diphenyl-silanyloxy)-2-(4-trifluoromethoxy-phenyl)-hexahydro-pyrrolo[1,2-c]imidazol-3-one | 1.6 g, 83% | C(C)(C)(C)[Si](O[C@@H]1C[C@@H]2N(C(N(C2)C2=CC=C(C=C2)OC(F)(F)F)=O)C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H31F3N2O3Si
